US06432957B1
Synthesis of N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)-L-phenylalanine amide
N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine (973 mg) and N-(9-fluorenylmethoxycarbonyl)-L-phenylalanine (871 mg) were treated in the same manner as in Preparation Example 9 to obtain the title compound.

reactant | N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amine | 973 mg | [Si](C)(C)(C(C)(C)C)OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H36N2O4Si
reactant | N-(9-fluorenylmethoxycarbonyl)-L-phenylalanine | 871 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
product | N-[2-(tert-butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(9-fluorenylmethoxycarbonyl)-L-phenylalanine amide | [Si](C)(C)(C(C)(C)C)OCCN(C([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=CC=CC=C1)=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C47H55N3O7Si
